US07777047B2
ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-5-(trifluoromethoxy)-1H-indole-2-carboxylate (2.53 g) and pyridine (50 mL) was added thiophene-2-sulfonyl chloride (1.94 g) at 0° C., and the mixture was stirred at room temperature for 4 hr, and concentrated. 1N Hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained crystals were washed with diisopropyl ether to give the title compound (3.40 g, yield 89%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane to give colorless prism crystals. melting point 196-197° C.

reactant | ethyl 7-amino-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 2.53 g | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F | C12H11F3N2O3
reactant | thiophene-2-sulfonyl chloride | 1.94 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indole-2-carboxylate | 3.40 g, yield 89% | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC(F)(F)F | C16H13F3N2O5S2
